US07368578B2
To a solution of tert-butyl 4-(4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazol-2-yl)piperazine-1-carboxylate (1.1 g) in methanol (20 mL) was added concentrated hydrochloric acid (0.3 mL) at room temperature, and the mixture was stirred at 50° C. for 2 hrs. The reaction mixture was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate (15 mL), di-tert-butyl dicarbonate (1.4 g) and saturated aqueous sodium hydrogen carbonate (15 mL) were added, and the mixture was stirred for 30 min. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was washed with hexane to give tert-butyl 4-{4-[(E)-2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-5-methyl-1,3-thiazol-2-yl}piperazine-1-carboxylate (0.97 g, yield 88%) as pale-yellow prism crystals. melting point: 221-223° C.

reactant | tert-butyl 4-(4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | 1.1 g | COCOC1=NN(C=C1/C=C/C=1N=C(SC1C)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C26H33N5O4S
reactant | hydrochloric acid | 0.3 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | tert-butyl 4-{4-[(E)-2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-5-methyl-1,3-thiazol-2-yl}piperazine-1-carboxylate | 0.97 g, yield 88% | OC1=NN(C=C1/C=C/C=1N=C(SC1C)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H29N5O3S
